US05202330
b) 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-[(4-nitrophenyl)carbonyl]-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester
A solution of 1.3 g. (0.0022 mole) of 1,6-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-[(4-nitrophenyl)carbonyl]-5pyrimidinecarboxylic acid, ethyl ester, 0.75 ml. (0.0097 mole) of trifluoroacetic acid and 0.32 g. (0.0050 mole) of ethanethiol in 15 ml. of dichloromethane is stirred at room temperature for 24 hours. The solvent is evaporated and the residue is triturated with isopropyl ether to give 0.95 . g of the title compound as a yellow solid, m.p. 139°-141°. TLC (silica gel; ethyl acetate:hexane, 1:1) Rf =0.35.

reactant | 1,6-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-[(4-nitrophenyl)carbonyl]-5pyrimidinecarboxylic acid, ethyl ester | 0.0022 mole | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C29H26N4O8S
reactant | trifluoroacetic acid | 0.0097 mole | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethanethiol | 0.0050 mole | C(C)S | C2H6S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-3-[(4-nitrophenyl)carbonyl]-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester | CC1=C(C(N(C(N1)=S)C(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C21H18N4O7S
